US04665087
To a solution of 12.4 g of methylamine in 45 ml of methanol was added with stirring and ice-water cooling a solution of 60.2 g of methyl 2-methylacrylate in 40 ml of methanol over a period of 1 hour. The mixture was allowed to stand at room temperature for 3 days, was evaporated and the residue was distilled at aspirator pressure to give the methyl 2-methyl-3-methylaminopropionate, bp. 57°-59° C./15 mm Hg.

reactant | methylamine | 12.4 g | CN | CH5N
reactant | methyl 2-methylacrylate | 60.2 g | CC(C(=O)OC)=C | C5H8O2
solvent | methanol | 45 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | methyl 2-methyl-3-methylaminopropionate | CC(C(=O)OC)CNC | C6H13NO2
